US09447114B2
To a solution of ethyl 3-(5-(bromomethyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (100 mg, 0.187 mmol) in toluene (5 mL) was added (4-chlorophenyl)boronic acid (32.1 mg, 0.205 mmol) and aq. Cs2CO3 (1 M, 0.28 mL). The reaction was degassed under nitrogen gas (3×) then Pd(PPh3)4 (10 mg) was added. The reaction was heated at 100° C. for 18 h, cooled to RT then diluted with EA (10 mL). The organic layer was washed with brine (5 mL), dried over Na2SO4 and concentrated to a residue which was purified by chromatography eluted with PE/EA (4:1 to 2:1) to give ethyl 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (51 mg, 48.1% yield) as a yellow solid. LCMS: MH+ 567 and TR=1.710 min.

reactant | ethyl 3-(5-(bromomethyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 0.187 mmol, 100 mg | BrCC1=C(SC=2N(C(N(C(C21)=O)CCC(=O)OCC)=O)C)C2=CC(=CC=C2)OC(F)(F)F | C20H18BrF3N2O5S
reactant | (4-chlorophenyl)boronic acid | 0.205 mmol, 32.1 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Cs2CO3 | 1 M, 0.28 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 51 mg, 48.1% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCC(=O)OCC)=O)C)C3=CC(=CC=C3)OC(F)(F)F)C=C1 | C26H22ClF3N2O5S
